** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/OTA_tb_loopgain.sch
**.subckt OTA_tb_loopgain
Vdd v_dd GND 1.2
Vss v_ss GND 0
Vin v_in v_ss dc 0.75
VBP V_BP v_ss 0.2
C2 vr1 v_ss 2p m=1
Vtest1 vf1 vr1 dc 0 ac 1
C1 net1 v_ss 2p m=1
Vir1 net1 net2 0
.save i(vir1)
Vif1 net2 net3 0
.save i(vif1)
Itest1 v_ss net2 dc 0 ac 1
C3 net4 v_ss 2p m=1
C4 net5 v_ss 2p m=1
Itest3 v_ss vmeas1 dc 0 ac 0
Vtest2 vmeas1 net6 dc 0 ac 1
Vimeas1 net4 net6 0
.save i(vimeas1)
Itest2 v_ss vmeas2 dc 0 ac 1
Vtest3 vmeas2 net7 dc 0 ac 0
Vimeas2 net5 net7 0
.save i(vimeas2)
x1 vmeas1 v_in V_BN V_BP net4 v_dd v_ss Pseudo_compensated_self_cascode_OTA
VBN V_BN v_ss 0.3
x2 vmeas2 v_in V_BN V_BP net5 v_dd v_ss Pseudo_compensated_self_cascode_OTA
x3 vf1 v_in V_BN V_BP vr1 v_dd v_ss Pseudo_compensated_self_cascode_OTA
x4 net3 v_in V_BN V_BP net1 v_dd v_ss Pseudo_compensated_self_cascode_OTA
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt



.param temp=27
.options savecurrents reltol=1e-3 abstol=1e-12 gmin=1e-15
.control
save all

* Operating Point Analysis
op
remzerovec
write ota-5t_tb-loopgain.raw
set appendwrite

* AC Analysis
ac dec 101 1 100G
remzerovec
write ota-5t_tb-loopgain.raw
set appendwrite

* Middlebrook's Method
let tv=-v(vr1)/v(vf1)
let ti=-i(vir1)/i(vif1)
let tmb=(tv*ti - 1)/(tv + ti + 2)

plot db(tmb) ylabel 'Magnitude - Middlebrook'
plot 180/pi*cphase(tmb) ylabel 'Phase - Middlebrook'

* Tian's Method
* vtest=0, itest=1:
let A=i(Vimeas2)
let C=v(vmeas2)

* vtest=1, itest=0:
let B=i(Vimeas1)
let D=v(vmeas1)
let ttian=(A*D-B*C-A)/(2*(B*C-A*D)+A-D+1)

plot db(ttian) ylabel 'Magnitude - Tian'
plot 180/pi*cphase(ttian) ylabel 'Phase - Tian'

* Middlebrook vs. Tian
plot db(tmb) db(ttian) ylabel 'Magnitude'
plot 180/pi*cphase(tmb) 180/pi*cphase(ttian) ylabel 'Phase'

write ota-5t_tb-loopgain.raw

*quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  Pseudo_compensated_self_cascode_OTA.sym # of pins=7
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sch
.subckt Pseudo_compensated_self_cascode_OTA VN VP V_BN V_BP V_OUT VDD VSS
*.ipin VN
*.ipin VP
*.ipin V_BN
*.ipin V_BP
*.opin V_OUT
*.iopin VDD
*.iopin VSS
XM11 net1 VN net2 VSS sg13_lv_nmos w=70u l=0.8u ng=7 m=1
XM12 V_GS VN net1 V_BP sg13_lv_nmos w=38.5u l=0.3u ng=4 m=1
XM21 net4 VP net2 VSS sg13_lv_nmos w=70u l=0.8u ng=7 m=1
XM22 VB32 VP net4 V_BP sg13_lv_nmos w=38.5u l=0.3u ng=4 m=1
XM52 net2 V_BN net3 V_BN sg13_lv_nmos w=40u l=0.5u ng=4 m=1
XM51 net3 V_BN VSS VSS sg13_lv_nmos w=40u l=2.5u ng=4 m=1
XM32 V_GS V_GS VS32 VB32 sg13_lv_pmos w=48.5u l=1.24u ng=5 m=1
XM31 VS32 V_GS VDD VDD sg13_lv_pmos w=48.5u l=0.87u ng=5 m=1
XM42 VB32 V_GS VS42 V_GS sg13_lv_pmos w=48.5u l=1.24u ng=5 m=1
XM41 VS42 V_GS VDD VDD sg13_lv_pmos w=48.5u l=0.87u ng=5 m=1
XM61 net5 VB32 VDD VDD sg13_lv_pmos w=60u l=0.13u ng=6 m=1
XM62 V_OUT VB32 net5 V_BP sg13_lv_pmos w=60u l=0.13u ng=6 m=1
XM72 V_OUT V_BN net6 V_BN sg13_lv_nmos w=40u l=0.5u ng=10 m=1
XM71 net6 V_BN VSS VSS sg13_lv_nmos w=40u l=2.5u ng=4 m=1
C1 VS42 V_OUT 1.45p m=1
C2 net4 V_OUT 1.45p m=1
.ends

.GLOBAL GND
.end
