** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/OTA_tb_tran.sch
**.subckt OTA_tb_tran
VDD V_DD GND 1.2
V_SS V_SS GND 0
Vin1 V_BN GND 0.3
Vin2 V_BP GND 0.2
x1 vout V_in V_BN V_BP vout V_DD V_SS Pseudo_compensated_self_cascode_OTA
C1 vout GND 2p m=1
Vin3 V_in GND PULSE(0.5 0.7 1u 1n 1n 10u 20u)
**** begin user architecture code



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ




.temp 27
.option method=gear

.control

tran 1n 20u

plot v(v_in) v(vout)
let vin_limit = 0.56*1.2
meas tran tstart WHEN v(v_in)=vin_limit RISE=1

let vlimit = vin_limit*0.999

meas tran tcross WHEN v(vout)=vlimit RISE=1

let tsettle = tcross - tstart

print tsettle

.endc


**** end user architecture code
**.ends

* expanding   symbol:  Pseudo_compensated_self_cascode_OTA.sym # of pins=7
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/Pseudo_compensated_self_cascode_OTA.sch
.subckt Pseudo_compensated_self_cascode_OTA VN VP V_BN V_BP V_OUT VDD VSS
*.ipin VN
*.ipin VP
*.ipin V_BN
*.ipin V_BP
*.opin V_OUT
*.iopin VDD
*.iopin VSS
XM11 net1 VN net2 VSS sg13_lv_nmos w=70u l=0.8u ng=7 m=1
XM12 V_GS VN net1 V_BP sg13_lv_nmos w=38.5u l=0.3u ng=4 m=1
XM21 net4 VP net2 VSS sg13_lv_nmos w=70u l=0.8u ng=7 m=1
XM22 VB32 VP net4 V_BP sg13_lv_nmos w=38.5u l=0.3u ng=4 m=1
XM52 net2 V_BN net3 V_BN sg13_lv_nmos w=40u l=0.5u ng=4 m=1
XM51 net3 V_BN VSS VSS sg13_lv_nmos w=40u l=2.5u ng=4 m=1
XM32 V_GS V_GS VS32 VB32 sg13_lv_pmos w=48.5u l=1.24u ng=5 m=1
XM31 VS32 V_GS VDD VDD sg13_lv_pmos w=48.5u l=0.87u ng=5 m=1
XM42 VB32 V_GS VS42 V_GS sg13_lv_pmos w=48.5u l=1.24u ng=5 m=1
XM41 VS42 V_GS VDD VDD sg13_lv_pmos w=48.5u l=0.87u ng=5 m=1
XM61 net5 VB32 VDD VDD sg13_lv_pmos w=60u l=0.13u ng=6 m=1
XM62 V_OUT VB32 net5 V_BP sg13_lv_pmos w=60u l=0.13u ng=6 m=1
XM72 V_OUT V_BN net6 V_BN sg13_lv_nmos w=40u l=0.5u ng=10 m=1
XM71 net6 V_BN VSS VSS sg13_lv_nmos w=40u l=2.5u ng=4 m=1
XC3 VS42 V_OUT cap_cmim w=5.0e-6 l=5.0e-6 m=38
XC1 net4 V_OUT cap_cmim w=5.0e-6 l=5.0e-6 m=38
.ends

.GLOBAL GND
.end
