** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/SC_integrator_tb.sch
**.subckt SC_integrator_tb
x1 phi1n Vin net1 GND phi1 vdd T_gate
x2 phi2n Vfb net1 GND phi2 vdd T_gate
x3 phi1n Vcm net2 GND phi1 vdd T_gate
XC1 net1 net2 cap_cmim w=7.0e-6 l=7.0e-6 m=70
x4 phi2n net2 vout GND phi2 vdd T_gate
V1 Vcm GND 0.6
V2 Vin GND SIN(0 0.1 5k)
V3 vdd GND 1.2
V4 Vfb GND 0
V5 phi1 GND PULSE(0 1.2 0 1n 1n 180n 390.625n)
V6 phi1n GND PULSE(1.2 0 0 1n 1n 180n 390.625n)
V7 phi2 GND PULSE(0 1.2 210n 1n 1n 180n 390.625n)
V8 phi2n GND PULSE(1.2 0 210n 1n 1n 180n 390.625n)
XC4 vout GND cap_cmim w=7.0e-6 l=7.0e-6 m=10
**** begin user architecture code


.control
save all
tran 1u 300u
write T_gate_tb.raw
.endc





.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ


**** end user architecture code
**.ends

* expanding   symbol:  T_gate.sym # of pins=6
** sym_path: /home/designer/shared/Delta-sigma-adc/xschem/T_gate.sym
** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/T_gate.sch
.subckt T_gate !Control Vin Vout gnd Control vdd
*.iopin Vout
*.iopin Vin
*.iopin !Control
*.iopin Control
*.iopin gnd
*.iopin vdd
XM1 Vin Control Vout gnd sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2 Vout !Control Vin vdd sg13_lv_pmos w=3u l=0.13u ng=1 m=1
.ends

.GLOBAL GND
.end
